US09216999B2
1-(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanol
1-(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone (13 mg, 0.034 mmol) in methanol (1 mL) was stirred with sodium borohydride (30 mg, 0.79 mmol) at room temperature for 1 hour and at 60° C. for another 5 hours. The reaction mixture was allowed to cool to room temperature and, after addition of water, extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1→3/1 (v/v)) to give the title compound as a colorless oil (9.1 mg, yield 70%).

reactant | 1-(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone | 0.034 mmol, 13 mg | C1(CCCCC1)NC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C21H33N3O2Si
reactant | sodium borohydride | 0.79 mmol, 30 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 1-(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanol | 9.1 mg, yield 70% | C1(CCCCC1)NC1=C2C(=NC=C1C(C)O)N(C=C2)COCC[Si](C)(C)C | C21H35N3O2Si
